US03966957
N-(1-Cyclohexyl-3-pyrrolidinyl)-2-fluorobenzamide hydrochloride.
To 19.5 g. (0.117 mole) of 3-amino-1-cyclohexylpyrrolidine in 100 ml. of chloroform was added dropwise 11.6 g. (0.074 mole) of o-fluorobenzoyl chloride in 100 ml. of chloroform. The solution was concentrated in vacuo and the residue partitioned between ethyl acetate containing 10% isopropyl ether and dilute hydrochloric acid. The acid layer was made basic with dilute sodium hydroxide and extracted with chloroform. The chloroform solution was dried over sodium sulfate, concentrated and the residue crystallized twice from ligroin. The yield was 13 g. (82%); m.p. at 204°-206°C.

reactant | 3-amino-1-cyclohexylpyrrolidine | 0.117 mole | NC1CN(CC1)C1CCCCC1 | C10H20N2
reactant | o-fluorobenzoyl chloride | 0.074 mole | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-2-fluorobenzamide hydrochloride | Cl.C1(CCCCC1)N1CC(CC1)NC(C1=C(C=CC=C1)F)=O | InChI=1S/C17H23FN2O.ClH/c18-16-9-5-4-8-15(16)17(21)19-13-10-11-20(12-13)14-6-2-1-3-7-14;/h4-5,8-9,13-14H,1-3,6-7,10-12H2,(H,19,21);1H
